US07304062B2
1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyryl]-2-(3,4-dichlorophenyl-methyl)-4-(propyl)semicarbazide
To 4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]-butyric acid (1.005 g, 3.41 mmol) in ethyl acetate (10 mL) at rt was added DMF (1 pipette drop), followed by oxalyl chloride (0.4 mL, 0.582 g, 4.58 mmol) dropwise over 3 min. The resulting solution was stirred for 30 min at rt, then concentrated to an oil. The oil was twice reconstituted into toluene (20 mL) and concentrated to an oil, then dissolved in ethyl acetate (3 mL). N-Propyl-1-(3,4-dichlorophenylmethyl)hydrazine methane-sulfonate (1.1458 g, 3.08 mmol) was suspended in ethyl acetate (10 mL) at 0° C., and pyridine (0.65 mL, 636 mg, 8.04 mmol) was added. The solution of acid chloride in ethyl acetate was then added dropwise over 2 min, and the resulting mixture stirred for 15 min at 0° C. The mixture was then diluted with ethyl acetate and washed with 1 N HCl (2×) followed by sat'd aq. NaCl. It was then dried (MgSO4), filtered and concentrated to an oil, which was chromatographed on silica gel (3:2 ethyl acetate:hexanes) to afford the title compound as an oil (1.4397 g, 85%): 1H NMR (DMSO-d6, 60° C.) δ 9.61 (s, 1 H), 7.50 (d, 1 H, J=8 Hz), 7.47 (d, 1 H, J=2 Hz), 7.23 (dd, 1 H, J=8, 2 Hz), 7.01 (d, 2 H, J=8.5 Hz), 6.71 (d, 2 H, J=8.5 Hz), 6.41 (br m, 1 H), 4.53 (br s, 2 H), 4.15 (q, 2 H. J=7 Hz), 3.00 (m, 2 H), 2.43 (m, 2 H), 2.09 (t, 2 H, J=7 Hz), 1.74 (m, 2 H), 1.48 (s, 6 H), 1.40 (m, 2 H), 0.81 (t, 3 H, J=7.5 Hz); 13C NMR (DMSO-d6) δ 174.0, 172.1, 158.1, 153.8, 140.4, 135.8, 131.4, 130.9, 130.6, 130.1, 129.7, 129.1, 119.5, 79.2, 61.6, 50.9, 42.3, 34.4, 33.5, 27.1, 25.7, 23.7, 14.6, 11.9; IR (CHCl3) 3457, 3008, 2876, 1727, 1673, 1509 cm−1; Anal. Calcd. for C27H35Cl2N3O5: C, 58.70; H, 6.39; N, 7.61. Found: C, 58.60; H, 6.49; N, 7.67.

reactant | 4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]-butyric acid | 3.41 mmol, 1.005 g | C(C)OC(=O)C(C)(OC1=CC=C(C=C1)CCCC(=O)O)C | C16H22O5
reactant | oxalyl chloride | 4.58 mmol, 0.4 mL, 0.582 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-Propyl-1-(3,4-dichlorophenylmethyl)hydrazine methane-sulfonate | 3.08 mmol, 1.1458 g | CS(=O)(=O)O.C(CC)N(N)CC1=CC(=C(C=C1)Cl)Cl
reactant | pyridine | 8.04 mmol, 0.65 mL, 636 mg | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyryl]-2-(3,4-dichlorophenyl-methyl)-4-(propyl)semicarbazide | 1.4397 g, 85% | C(C)OC(=O)C(C)(OC1=CC=C(C=C1)CCCC(=O)NN(C(=O)NCCC)CC1=CC(=C(C=C1)Cl)Cl)C | C27H35Cl2N3O5
